US04260832
1.15 grams of metallic sodium (0.05 moles) was added to 59 grams of 1,6-hexanediol (0.5 moles) in a 250 ml. flask fitted with a water trap and the mixture was stirred until the sodium dissolved. The flask was purged with nitrogen and there was then added 20.6 grams of 2,6-di-tert.-butylphenol (0.1 moles) and 0.5 grams (0.0055 moles) of tert.-butyl hydroperoxide. The mixture was heated at 230° C. for 5.5 hours with 0.5 gram increments of tert.-butyl hydroperoxide being added after 1, 2.5, 3.5, and 4.5 hours. The mixture was allowed to cool and was then neutralized by the addition of 5 ml. of concentrated hydrochloric acid. Sodium chloride from the neutralization of the base was removed by filtration and the filtrate was distilled under vacuum. There was obtained 18.5 grams 6-(3,5-di-tert.-butyl-4-hydroxyphenyl)hexanol, 60.5% yield.

reactant | sodium | 0.05 moles, 1.15 grams | [Na] | Na
reactant | 1,6-hexanediol | 0.5 moles, 59 grams | C(CCCCCO)O | C6H14O2
reactant | 2,6-di-tert.-butylphenol | 0.1 moles, 20.6 grams | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | tert.-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | hydrochloric acid | Cl | ClH
catalyst | tert.-butyl hydroperoxide | 0.0055 moles, 0.5 grams | C(C)(C)(C)OO | C4H10O2
product | 6-(3,5-di-tert.-butyl-4-hydroxyphenyl)hexanol | 18.5 grams, 60.5% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCCCCCO | C20H34O2
